US05563162
To a suspension of 4-formylbenzoic acid (1.00 g) in dry tetrahydrofuran (15 ml) was added methyl(triphenylphosphoranylidene)acetate (2.50 g) at ambient temperature under nitrogen atmosphere. The reaction mixture was stirred for 1 hour at the same temperature, poured into aqueous sodium bicarbonate solution, and washed with ethyl acetate. 1N-Hydrochloric acid was added to the aqueous layer until the layer was adjusted to pH 2. The aqueous layer was extracted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate and evaporated in vacuo. The residue was crystallized from diisopropyl ether to give methyl 4-carboxycinnamate (1.21 g) as colorless powder.

reactant | 4-formylbenzoic acid | 1.00 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | methyl(triphenylphosphoranylidene)acetate | 2.50 g | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | methyl 4-carboxycinnamate | 1.21 g | C(=O)(O)C1=CC=C(C=CC(=O)OC)C=C1 | C11H10O4
